US08067408B2
N-[(6-Chloro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide
In an alternate process for the preparation of the title compound, N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (70 mg, 0.107 mmol), 1,1-dimethylethyl (2S)-2-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperazinecarboxylate (44.6 mg, 0.107 mmol), potassium carbonate (44.4 mg, 0.321 mmol), and Pd(Ph3P)4 (6.18 mg, 5.35 μmol) were added to a 0.5-2 mL Biotage microwave vial in 1,4-dioxane (3 mL) and water (1.00 mL). The vial was capped and the mixture was heated under microwave at normal power in the Emrys Optimizer at 100° C. for 15 minutes. The crude product was partitioned between EtOAc (30 mL) and water (10 mL). The phases were separated; the organic washed with brine, dried over anhydrous Na2SO4, filtered and concentrated to give the crude intermediate. It was then taken up in dichloromethane (DCM) (3.60 mL), and treated with TFA (0.4 mL, 5.19 mmol). The mixture was stirred under argon overnight. Solvents were pumped off and the residue taken up in DMSO (1.1 mL) and purified on a Gilson HPLC eluting at 20 mL/min with a linear gradient running from 10% CH3CN/H2O (0.1% TFA) to 90% CH3CN/H2O (0.1% TFA). The desired fractions were concentrated to give the desired product as a TFA salt. This was converted to the free base by taking up the residue in EtOAc (30 mL) and 2.5 N NaOH (5 mL). The phases were separated, the organic phase was washed with 2.5 N NaOH (3×5 mL), and then with brine (2×5 mL). The organic phase was dried over anhydrous Na2SO4 filtered and concentrated to give N-[(6-chloro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (62.3 mg, 76% yield) as a white solid. LC-MS m/z 763 M+; mp 116-118° C.

reactant | N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.107 mmol, 70 mg | BrC=1C=C(C=CC1Cl)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C31H34BrClN6O3
reactant | 1,1-dimethylethyl (2S)-2-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperazinecarboxylate | 0.107 mmol, 44.6 mg | C[C@@H]1N(CCN(C1)CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C23H37BN2O4
reactant | potassium carbonate | 0.321 mmol, 44.4 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(Ph3P)4 | 5.35 μmol, 6.18 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[(6-Chloro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | ClC1=CC=C(C=C1C1=CC(=CC=C1)CN1C[C@@H](NCC1)C)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C43H51ClN8O3
